CIRCUIT D:\INGEGNERIA\Microelectronics\Microwind4Cav\TSPC_FA_FullDesign\TSPC_FA_FullDesign.MSK
*
* IC Technology: CMOS 0.12µm - 6 Metal
*
VDD 1 0 DC 1.20
*
* List of nodes
* "sum" corresponds to n°3
* "notSum" corresponds to n°5
* "carry" corresponds to n°6
* "N7" corresponds to n°7
* "notCarry" corresponds to n°8
* "N9" corresponds to n°9
* "d" corresponds to n°19
* "b" corresponds to n°28
* "phi" corresponds to n°29
* "c" corresponds to n°30
* "a" corresponds to n°31
*
* Generators for a b c
Va 31 0 PULSE(0 1.2 0 10p 10p 500p 1n)
Vb 28 0 PULSE(0 1.2 0 10p 10p 1n 2n)
Vc 30 0 PULSE(0 1.2 0 10p 10p 2n 4n)
*
* Generator for phi
Vphi 		29 0 PULSE(0 1.2 0 10p 10p 250p 500p)
*
* Output capacitor
CoutSum 3 0 100fF
CoutCarry 6 0 100fF
*
* MOS devices
MN1 0 31 18 0 N1  W= 1.92U L= 0.12U
MN2 18 28 17 0 N1  W= 1.92U L= 0.12U
MN3 17 30 16 0 N1  W= 1.92U L= 0.12U
MN4 16 29 5 0 N1  W= 1.92U L= 0.12U
MN5 0 5 15 0 N1  W= 0.96U L= 0.12U
MN6 15 29 3 0 N1  W= 0.96U L= 0.12U
MN7 3 29 14 0 N1  W= 0.96U L= 0.12U
MN8 14 5 0 0 N1  W= 0.96U L= 0.12U
MN9 19 31 5 0 N1  W= 1.20U L= 0.12U
MN10 5 28 19 0 N1  W= 1.20U L= 0.12U
MN11 19 30 5 0 N1  W= 1.20U L= 0.12U
MN12 20 8 19 0 N1  W= 1.20U L= 0.12U
MN13 0 29 20 0 N1  W= 1.20U L= 0.12U
MN14 21 8 0 0 N1  W= 1.20U L= 0.12U
MN15 6 29 21 0 N1  W= 1.20U L= 0.12U
MN16 22 29 6 0 N1  W= 1.20U L= 0.12U
MN17 0 8 22 0 N1  W= 1.20U L= 0.12U
MN18 23 28 0 0 N1  W= 1.56U L= 0.12U
MN19 8 31 23 0 N1  W= 1.56U L= 0.12U
MN20 24 31 8 0 N1  W= 0.48U L= 0.12U
MN21 25 28 8 0 N1  W= 0.48U L= 0.12U
MN22 0 30 24 0 N1  W= 0.48U L= 0.12U
MN23 0 30 25 0 N1  W= 0.48U L= 0.12U
MN24 26 30 0 0 N1  W= 0.48U L= 0.12U
MN25 27 30 0 0 N1  W= 0.48U L= 0.12U
MN26 8 31 26 0 N1  W= 0.48U L= 0.12U
MN27 8 28 27 0 N1  W= 0.48U L= 0.12U
MP1 1 5 3 1 P1  W= 3.60U L= 0.12U
MP2 1 29 5 1 P1  W= 1.20U L= 0.12U
MP3 1 8 6 1 P1  W= 3.60U L= 0.12U
MP4 7 28 1 1 P1  W= 1.44U L= 0.12U
MP5 8 31 7 1 P1  W= 1.44U L= 0.12U
MP6 9 31 8 1 P1  W= 1.44U L= 0.12U
MP7 1 28 9 1 P1  W= 1.44U L= 0.12U
MP8 10 28 1 1 P1  W= 1.44U L= 0.12U
MP9 8 30 10 1 P1  W= 1.44U L= 0.12U
MP10 11 30 8 1 P1  W= 1.44U L= 0.12U
MP11 1 28 11 1 P1  W= 1.44U L= 0.12U
MP12 12 31 1 1 P1  W= 1.44U L= 0.12U
MP13 8 30 12 1 P1  W= 1.44U L= 0.12U
MP14 13 30 8 1 P1  W= 1.44U L= 0.12U
MP15 1 31 13 1 P1  W= 1.44U L= 0.12U
*
* n-MOS Model 3 :
* low leakage
.MODEL N1 NMOS LEVEL=3 VTO=0.40 UO=600.000 TOX= 2.0E-9
+LD =0.000U THETA=0.500 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=120.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* low leakage
.MODEL P1 PMOS LEVEL=3 VTO=-0.45 UO=200.000 TOX= 2.0E-9
+LD =0.000U THETA=0.300 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=110.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.tran 0 16n 0 1p
.PROBE
.END

